US08071807B2
As described for Example 21, [3-(2-bromomethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester and 2-methyl-2-propanethiol were reacted to provide [3-(2-tert-butylsulfanylmethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester, which was reduced to [3-(4-amino-2-tert-butylsulfanylmethyl-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester. The amine was treated with trimethylacetyl chloride to provide {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-chloro-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester provided the acid.

reactant | [3-(2-bromomethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C17H15BrClNO5
reactant | 2-methyl-2-propanethiol | CC(C)(C)S | C4H10S
product | [3-(2-tert-butylsulfanylmethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])CSC(C)(C)C)=O | C21H24ClNO5S
